US07262212B2
Using 4-(4-trifluoromethoxyphenyl)-1,2,3,6-tetrahydropyridine monohydrochloride (680 mg, 2.43 mmol) and 2-(2-bromoethoxy)tetrahydropyran (610 mg, 2.92 mmol), 1-[2-(tetrahydropyran-2-yloxy)ethyl]-4-(4-trifluoromethoxyphenyl)-1,2,3,6-tetrahydropyridine (425 mg, yield 47%) as a pale brown oil was prepared in the same manner as described in Reference Example 15.

reactant | 4-(4-trifluoromethoxyphenyl)-1,2,3,6-tetrahydropyridine monohydrochloride | 2.43 mmol, 680 mg | Cl.FC(OC1=CC=C(C=C1)C=1CCNCC1)(F)F
reactant | 2-(2-bromoethoxy)tetrahydropyran | 2.92 mmol, 610 mg | BrCCOC1OCCCC1 | C7H13BrO2
product | 1-[2-(tetrahydropyran-2-yloxy)ethyl]-4-(4-trifluoromethoxyphenyl)-1,2,3,6-tetrahydropyridine | 425 mg, yield 47% | O1C(CCCC1)OCCN1CCC(=CC1)C1=CC=C(C=C1)OC(F)(F)F | C19H24F3NO3
